*
.SUBCKT BSP62 1 2 3 
* For use with Microsim PSPICE please
* modify the AREA statement in this 
* model:  e.g.
* SPICE: 
* Q2 1 22 3 QBSS51 AREA = 3.33 
* PSPICE:
* Q2 1 22 3 QBSS51 3.33 
Q1 1 2 22 BSP62 AREA = 1 
Q2 1 22 3 BSP62 AREA = 3.33 
R1 22 3 50 
D1 1 3 DIODE 
* For simulation of large signal
* switching please edit
* the model and replace 
* R1 = 50  by  R1 = 100
*
.MODEL BSP62 PNP( 
+ IS = 1.001E-14 
+ NF = 0.976 
+ ISE = 1E-15 
+ NE = 2.332 
+ BF = 172.5 
+ IKF = 0.4163 
+ VAF = 70 
+ NR = 0.9748 
+ ISC = 1.782E-15 
+ NC = 1.06 
+ BR = 10.12 
+ IKR = 0.005 
+ VAR = 10 
+ RB = 77.4 
+ IRB = 2.05E-05 
+ RBM = 0.001 
+ RE = 0.3607 
+ RC = 3.399 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.4E-11 
+ VJE = 0.7005 
+ MJE = 0.3739 
+ TF = 1E-09 
+ XTF = 2 
+ VTF = 5 
+ ITF = 5 
+ PTF = 0 
+ CJC = 9.199E-12 
+ VJC = 0.446 
+ MJC = 0.3962 
+ XCJC = 1 
+ TR = 9E-07 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78)
* 
.MODEL DIODE D( 
+ IS = 1E-18 
+ N = 0.6777 
+ BV = 86 
+ IBV = 1E-09 
+ RS = 8 
+ CJO = 5E-14 
+ VJ = 0.446 
+ M = 0.396 
+ FC = 0.5 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3) 
.ENDS
*
